US04885367
To 20 ml of an acetic acid solution containing 3.4 g of N-(2-cyclohexyloxyphenyl)methanesulfonamide was added dropwise 1.5 g of 61% nitric acid on heating at 110° C. over a 30-minute period, and then the mixture was stirred for 1 hour. The reaction solution was poured into ice water and neutralized with a dilute aqueous sodium hydroxide solution. The crystals which formed were collected by filtration, washed with water and dried to give 4.5 g of the crude crystals, which were then recrystallized from ethanol-n-hexane to give 3.3 g of N-(2-cyclohexyloxy-4-nitrophenyl)methanesulfonamide.

reactant | N-(2-cyclohexyloxyphenyl)methanesulfonamide | 3.4 g | C1(CCCCC1)OC1=C(C=CC=C1)NS(=O)(=O)C | C13H19NO3S
reactant | nitric acid | 1.5 g | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-(2-cyclohexyloxy-4-nitrophenyl)methanesulfonamide | 3.3 g | C1(CCCCC1)OC1=C(C=CC(=C1)[N+](=O)[O-])NS(=O)(=O)C | C13H18N2O5S
